US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(2-furanyl)methoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11, 28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone (63 mg in 1.0 ml methylene chloride) furfuryl trichloroacetimidate (39 μl neat) was added and the reagents allowed to mix for 5 minutes. Camphorsulfonic acid (3.7 mg) was added and the mixture stirred at room temperature. After 4.5 hours the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×5 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate: hexane (1:2)+1% methanol) gave the title compound (20 mg). MAS: (FAB) 878 (M+Li). Partial 1H NMR δ: 7.38(brs, 1H); 6.30(m, 3H); 5.32M, 5.19m(brd J=3 Hz, 1H); 4.83m, 4.21 M(brs, 1H); 4.62(dd J=15Hz, 2H); 4.41(brd J=14 Hz, 1H).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone | 1.0 ml, 63 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | furfuryl trichloroacetimidate | 39 μl | ClC(C(OCC1=CC=CO1)=N)(Cl)Cl | C7H6Cl3NO2
reactant | Camphorsulfonic acid | 3.7 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(2-furanyl)methoxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11, 28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 20 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=2OC=CC2)OC)C)C)O)=O | C48H73NO13
